US04101662
4-(p-Fluoro-α-hydroxybenzyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine
A solution of 3.0 g. (0.0072 mole) of 2-(p-fluorophenyl)-2-{3-[4-(p-fluoro-α-hydroxybenzyl)piperidino]propyl}-1,3-dioxolane in 5 ml. of chloroform was stirred at room temperature with 25 ml. of 6N hydrochloric acid for 2 hr. The mixture was poured onto crushed ice and an excess of 50% sodium hydroxide solution was added. The free base of the ketone crystallized upon neutralization. The solid which was obtained was recrystallized from benzene-isooctane and gave 1 g. of white solid melting at 144°-146° C.

reactant | 2-(p-fluorophenyl)-2-{3-[4-(p-fluoro-α-hydroxybenzyl)piperidino]propyl}-1,3-dioxolane | 0.0072 mole | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)O | C24H29F2NO3
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(p-Fluoro-α-hydroxybenzyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine | FC1=CC=C(C(O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | C22H25F2NO2
